US07585868B2
Synthesis of 5-(3-biphenyl)-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (ZK151).
A solution of 5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (5 mg, 0.018 mmol), 3-biphenylboronic acid (18 mg, 0.091 mmol), K3PO4 (19.3 mg, 0.091 mmol) and Pd(PPh3)4 (12.5 mg, 0.011 mmol) in DMF (3 mL) was heated to 60° C. under an argon atmosphere. Reaction was concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 301.1, found 301.3.

reactant | 5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.018 mmol, 5 mg | IC1=CN(C=2N=CN=C(C21)N)C | C7H7IN4
reactant | 3-biphenylboronic acid | 0.091 mmol, 18 mg | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | K3PO4 | 0.091 mmol, 19.3 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.011 mmol, 12.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-biphenyl)-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | CN1C=C(C2=C1N=CN=C2N)C3=CC=CC(=C3)C4=CC=CC=C4 | C19H16N4
